US08017607B2
To a mixture of rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-2-ethoxy-benzoic acid ethyl ester (50.0 mg, 0.076 mmol) in THF/MeOH (1.2 mL/0.4 mL) was added 4 N LiOH (0.4 mL), and the reaction mixture was stirred at rt for 2 hrs. The reaction mixture was concentrated and quenched with 2 NH2SO4, extracted with EtOAc, and washed with water, brine. The organic phase was separated, and dried over Na2SO4. The mixture was then concentrated and the residue was purified by RP-HPLC to give rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-2-ethoxy-benzoic acid (24.4 mg, 50.9%). HRMS (ES+) m/z Calcd for C33H32Cl2F2N2O4+H [(M+H)+]: 629.1780, found: 629.1782.

reactant | rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-2-ethoxy-benzoic acid ethyl ester | 0.076 mmol, 50.0 mg | C(C)OC(C1=C(C=C(C=C1)CC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)OCC)=O | C35H36Cl2F2N2O4
reactant | LiOH | 4 N, 0.4 mL | [Li+].[OH-]
solvent | THF MeOH | 1.2 mL | C1CCOC1.CO
product | rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-2-ethoxy-benzoic acid | 24.4 mg, 50.9% | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(CC1=CC(=C(C(=O)O)C=C1)OCC)=O)F | C33H32Cl2F2N2O4
